US05219881
Concentrated sulphuric acid (5 drops) was added to a solution of 2-hydroxy-2-[3-(naphth-2-ylmethoxy)phenyl]propionaldehyde dimethyl acetal (1.5 g) in acetone (30 ml) and the mixture was stirred at ambient temperature for 5 hours. A saturated aqueous sodium bicarbonate solution (30 ml) was added and the bulk of the acetone was evaporated. The residue was partitioned between diethyl ether and water. The organic phase was washed with water and with a saturated sodium chloride solution, dried (MgSO4) and evaporated. The residue, comprising a mixture of diastereoisomers, was purified by column chromatography using increasingly polar mixtures of petroleum ether (b.p. 40°-60° C.) and methylene chloride as eluent. There was thus obtained the less polar diastereoisomer, (4SR,5RS)-2,2,4-trimethyl-5-methoxy-4-[3-(naphth-2-ylmethoxy)phenyl]-1,3-dioxolane (0.39 g, 31%), m.p. 100°-103° C.; the 4-methyl and 5-methoxy groups being in a cis-relationship.

reactant | 2-hydroxy-2-[3-(naphth-2-ylmethoxy)phenyl]propionaldehyde dimethyl acetal | 1.5 g | COC(C(C)(C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1)O)OC | C22H24O4
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | (4SR,5RS)-2,2,4-trimethyl-5-methoxy-4-[3-(naphth-2-ylmethoxy)phenyl]-1,3-dioxolane | 0.39 g, 31% | CC1(OC(C(O1)(C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1)C)OC)C | C24H26O4
